US04636516
In 10 ml of ethanol was dissolved 0.4 g of 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-formyl-2,3-dihydroimidazo[2,1-b]thiazole and after adding 40 mg of sodium borohydride to the solution, the mixture was stirred for 10 minutes. To the reaction mixture were added 0.3 ml of acetic acid and 30 ml of water, and the crystals thus precipitated were recovered by filtration and recrystallized from aqueous ethanol to provide 0.3 g of 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-hydroxymethyl-2,3-dihydroimidazo[2,1-b]thiazole.

reactant | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-formyl-2,3-dihydroimidazo[2,1-b]thiazole | 0.4 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1C=O | C20H26N2O2S
reactant | sodium borohydride | 40 mg | [BH4-].[Na+]
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | water | 30 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-hydroxymethyl-2,3-dihydroimidazo[2,1-b]thiazole | 0.3 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1CO | C20H28N2O2S
